US07109199B2
N-(5-Phenyl-1H-pyrazolo[3,4-b]pyridin-3-yl)butyramide
n-Butyryl chloride (40 μl, 0.36 mmol) was added to a solution of 5-phenyl-1H-pyrazolo[3,4-b]pyridin-3-ylamine (Description 2; 100 mg, 0.47 mmol) in pyridine (0.5 ml). The reaction mixture was stirred at reflux for 16 hours, then allowed to cool. The solution was acidified to pH 1 with 5N HCl, and the resulting solids were filtered and dried. Crystallization from DMF/MeOH afforded the title compound as a solid.

reactant | n-Butyryl chloride | 0.36 mmol, 40 μl | CCCC(=O)Cl | C4H7ClO
reactant | 5-phenyl-1H-pyrazolo[3,4-b]pyridin-3-ylamine | 0.47 mmol, 100 mg | C1(=CC=CC=C1)C=1C=C2C(=NC1)NN=C2N | C12H10N4
reactant | HCl | 5N | Cl | ClH
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
product | N-(5-Phenyl-1H-pyrazolo[3,4-b]pyridin-3-yl)butyramide | C1(=CC=CC=C1)C=1C=C2C(=NC1)NN=C2NC(CCC)=O | C16H16N4O
